US09126931B2
9-Ethyl-6,6-dimethyl-11-oxo-8-[4-(3-oxo-piperazin-1-yl)-piperidin-1-yl]-6,11-dihydro-5H-benzo[b]carbazole-3-carbonitrile
9-Ethyl-6,6-dimethyl-11-oxo-8-(4-oxopiperidin-1-yl)-6,11-dihydro-5H-benzo[b]carbazole-3-carbonitrile (30 mg) and 2-ketopiperazine (10 mg) were dissolved in THF (2 ml), added with sodium triacetoxy borohydride (30 mg), and the mixture was stirred at 30° C. for 6 hrs. The reaction mixture was diluted with ethyl acetate (20 ml). The organic layer was washed with 10% brine, and then concentrated under reduced pressure. The resulting residues were purified by silica gel column (dichloromethane/methanol=99/1 to 90/10) to obtain the title compound (11.5 mg, yield 32%).

reactant | 9-Ethyl-6,6-dimethyl-11-oxo-8-(4-oxopiperidin-1-yl)-6,11-dihydro-5H-benzo[b]carbazole-3-carbonitrile | 30 mg | C(C)C1=CC2=C(C(C=3NC4=CC(=CC=C4C3C2=O)C#N)(C)C)C=C1N1CCC(CC1)=O | C26H25N3O2
reactant | 2-ketopiperazine | 10 mg | O=C1NCCNC1 | C4H8N2O
reactant | sodium triacetoxy borohydride | 30 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | 9-Ethyl-6,6-dimethyl-11-oxo-8-[4-(3-oxo-piperazin-1-yl)-piperidin-1-yl]-6,11-dihydro-5H-benzo[b]carbazole-3-carbonitrile | 11.5 mg, yield 32% | C(C)C1=CC2=C(C(C=3NC4=CC(=CC=C4C3C2=O)C#N)(C)C)C=C1N1CCC(CC1)N1CC(NCC1)=O | C30H33N5O2
